US04579585
4(1-Fluoromethyl-ethyl)-aniline
10.3 g (0.057 Mol) 4(1-fluoromethyl-ethyl)-nitrobenzene are dissolved in 250 ml absolute CH3OH and hydrogenated at room temperature and atmospheric pressure in the presence of 0.61 g 10% Pd/C.

reactant | 4(1-fluoromethyl-ethyl)-nitrobenzene | 0.057 Mol, 10.3 g | FCC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10FNO2
solvent | CH3OH | 250 ml | CO | CH4O
catalyst | Pd/C | 0.61 g | [Pd] | Pd
product | 4(1-Fluoromethyl-ethyl)-aniline | FCC(C)C1=CC=C(N)C=C1 | C9H12FN
